US04416884
A mixture of 2.5 g of 8-(1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 50 ml of trifluoroacetic anhydride was heated under reflux for 3 hours. After completion of heating, excessive trifluoroacetic anhydride was distilled off under reduced pressure and 50 ml of water was added to the residue followed by stirring to precipitate white crystals. Recrystallization of the crystals from dimethylformamide gave 2.3 g of 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white rhombic crystals having a melting point of 300° C. or more.

reactant | 8-(1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.5 g | N1(CCNCC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C18H20ClN3O3
reactant | trifluoroacetic anhydride | 50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.3 g | FC(C(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl)(F)F | C20H19ClF3N3O4
